US04772600
2-(4-Chlorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (6.0 g, 0.021 mole) and 1,1'-carbonyldiimidazole (3.39 g, 0.021 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 2 hours with a stream of nitrogen bubbling through it. A solution of di-n-propylamine (1.94 g, 0.063 mole) in tetrahydrofuran was added dropwise at room temperature to the stirred solution and the reaction mixture was allowed to stir at room temperature overnight. The tetrahydrofuran was evaporated and the solid residue was triturated with water. The solid was collected by filtration and dried under high vacuum overnight. The solid was recrystallized from isopropyl alcohol-water, collected by filtration, washed with water, and dried under high vacuum at room temperature over the weekend to give 3.79 g (59%) in 2 crops, mp 156°-57° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.021 mole, 6.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.021 mole, 3.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | di-n-propylamine | 0.063 mole, 1.94 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)CCC | C20H23ClN4O
